US08530504B2
(77a) tert-Butyl[3-(4-hydroxy-2,6-dimethoxyphenyl)-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate
To a solution of tert-butyl(3-bromo-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate (375 mg, 1.08 mmol) in 1,4-dioxane (25 ml) and water (12.5 ml) were added (4-{[tert-butyl(dimethyl)silyl]oxy}-2,6-dimethoxyphenyl)boronic acid (505 mg, 1.61 mmol), tetrakis(triphenylphosphine)palladium(0) (125 mg, 0.108 mmol) and potassium carbonate (298 mg, 2.15 mmol), and the mixture was heated to reflux at 110° C. for two hours and 35 minutes. The reaction mixture was concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate=10% then 70%) to obtain the title compound (242 mg, 0.574 mmol).

reactant | tert-butyl(3-bromo-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 1.08 mmol, 375 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2Br)OC)=O | C11H14BrN3O3S
reactant | (4-{[tert-butyl(dimethyl)silyl]oxy}-2,6-dimethoxyphenyl)boronic acid | 1.61 mmol, 505 mg | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C(=C1)OC)B(O)O)OC | C14H25BO5Si
reactant | potassium carbonate | 2.15 mmol, 298 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 12.5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.108 mmol, 125 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl[3-(4-hydroxy-2,6-dimethoxyphenyl)-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate | 0.574 mmol, 242 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)O)OC)OC)=O | C19H23N3O6S
